Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Pericardial Effusion 
 
Major Surgical or Invasive Procedure:
Pericardial Drain ___ placed in the interventional cardiology 
lab
 
History of Present Illness:
The pt is a ___ w/ no prior cardiac history who presents for 
pericardial effusion s/p pericardiocentesis w/ drain placement.

The patient states that he has had 4 episodes of chest pain and 
discomfort in the past few months, the first of which was in ___ 
of this year. Each episode lasted several days before resolving 
on own. without any treatment. The pain was described as L 
sided, encompassing the L shoulder, worse while laying down and 
with deep inspiration. Accompanied with shortness of breath as 
well as subjective fevers and chills. At first, the patient 
thought that these were related to muscular strain as they 
seemed follow exertional activity. 

Most recently, the patient was hiking in ___ about 10 days ago 
and began to experience a reoccurrence of chest pain. The pain 
persisted for several days and was again associated fevers up to 
___ and chills. He also complained of increased shortness of 
breath and cough. The patient was seen in urgent care on ___, 
an EKG showed  diffuse mild ~1mm ST changes and PR depressions. 
He was started on meloxicam and colchicine. His symptoms did not 
improve and the patient began to feel increasingly dyspneic, so 
he presented again to his PCP ___ ___. A TTE was scheduled for 
___ which showed a large concentric pericardial effusion without 
diastolic collapse of the RV, however there was some concern for 
early tamponade physiology given respiratory variation in 
transvalvular flow. 

The patient denied skin rashes, tick bites, but he did have a
infection such as a sore throat but that was for a short period
of time after the first bout of pleuritic chest pain that he
experienced.  No other flulike syndromes otherwise. He has had 
no chest wall trauma, no history of TB, connective tissue 
disorder, or known malignancy.  He is up-to-date with his 
colonoscopy screening.

He was referred to ___ for drainage of the effusion. On 
arrival the patient was complaining of severe chest pain, 
however vital signs were stable. Labs were notable for CRP 
287.9, Trop-T: <0.01, Lactate 1.3, proBNP 489. An EKG showed 
diffuse PR depressions and ST elevations in V2-V3.  The patient 
was taken to the cath lab and underwent pericardiocentesis with 
drainage of 350cc of serosanguinous fluid with resolution of 
echo evidence of tamponade. A pericardial drain was left in 
place and the patient was transferred to the CCU for further 
management.

On arrival to the CCU the patient was in stable condition but 
complained of ___ chest pain at the site of the pericardial 
drain that decreased to ___ w/ IV dilaudid. He still complained 
of some continued cough, but reported that SOB was improved.

 
Past Medical History:
PAST MEDICAL HISTORY:  
1. CARDIAC RISK FACTORS  
-None

2. CARDIAC HISTORY  
- None

3. OTHER PAST MEDICAL HISTORY  
- Colon adenoma
- Basal cell carcinoma of scapular region
- Nonallergic vasomotor rhinitis
 
Social History:
___
Family History:
 
Mother died of colon cancer diagnosed in ___. 
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.  
 
Physical Exam:
Admission Physical Exam:
===========================

VS: T 101.2, HR 102, BP 102/94, RR 37, O2 sat 93% on 4L 
GENERAL: Well developed, well nourished in NAD. Oriented x3. 
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 

NECK: Supple. JVP not elevated. Neck veins normal.
CARDIAC:  Regular rate and rhythm. Normal S1, S2. No murmurs. 
Heart sounds not distant, no rub appreciated. Pigtail catheter 
cleanly dressed midsternum, no surrounding erythema or 
induration.
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

Discharge Exam:
===============
VS: Temp: 98.6
BP 99 / 68
HR 92 RR 20 02 94% RA 
GENERAL: Well developed, well nourished in NAD. Oriented x3. 
Mood, affect appropriate. Seated on the edge of his bed in no 
apparent pain or distress
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 

NECK: Supple. JVP not appreciated on exam today.
CARDIAC:  Regular rate and rhythm. Normal S1, S2. No murmurs. 
Heart sounds not distant, no rub appreciated. No lower extremity 
edema 
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. Right sided crackles at 
mid lung to the base, left lung with distant breath sounds, and 
dullness to percussion on the left 
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  
SKIN: No significant skin lesions or rashes.  

 
Pertinent Results:
Admission Labs:
===============
___ 05:30PM   GLUCOSE-108* UREA N-12 CREAT-0.9 SODIUM-138 
POTASSIUM-4.6 CHLORIDE-97 TOTAL CO2-23 ANION GAP-18*
___ 05:30PM   CALCIUM-8.5 PHOSPHATE-3.8 MAGNESIUM-2.0
___ 05:30PM   WBC-10.1* RBC-4.79 HGB-13.8 HCT-41.6 MCV-87 
MCH-28.8 MCHC-33.2 RDW-13.2 RDWSD-41.5
___ 05:30PM   PLT COUNT-229
___ 05:30PM   ___ PTT-26.0 ___
___ 03:34PM OTHER BODY FLUID  TOT PROT-5.4 GLUCOSE-85 
LD(LDH)-252 ALBUMIN-3.1
___ 03:34PM OTHER BODY FLUID  TNC-453* ___ POLYS-75* 
LYMPHS-20* MONOS-0 EOS-3* BASOS-1* MACROPHAG-1*
___ 12:20PM   GLUCOSE-91 UREA N-14 CREAT-1.0 SODIUM-137 
POTASSIUM-4.7 CHLORIDE-97 TOTAL CO2-25 ANION GAP-15
___ 12:20PM   estGFR-Using this
___ 12:20PM   cTropnT-<0.01 proBNP-489*
___ 12:20PM   CALCIUM-9.0 PHOSPHATE-4.1 MAGNESIUM-2.2
___ 12:20PM   TSH-1.9
___ 12:20PM   CRP-287.9*
___ 12:20PM   LACTATE-1.3
___ 12:20PM   WBC-9.7 RBC-4.58* HGB-13.1* HCT-40.2 MCV-88 
MCH-28.6 MCHC-32.6 RDW-13.3 RDWSD-42.9
___ 12:20PM   NEUTS-75.1* LYMPHS-10.7* MONOS-10.7 EOS-2.4 
BASOS-0.5 IM ___ AbsNeut-7.29* AbsLymp-1.04* AbsMono-1.04* 
AbsEos-0.23 AbsBaso-0.05
___ 12:20PM   PLT COUNT-238

Discharge Labs:
==============

___ 07:55AM BLOOD WBC-9.1 RBC-4.78 Hgb-13.4* Hct-41.1 
MCV-86 MCH-28.0 MCHC-32.6 RDW-13.0 RDWSD-41.1 Plt ___
___ 07:55AM BLOOD Plt ___
___ 07:55AM BLOOD Glucose-84 UreaN-11 Creat-0.9 Na-140 
K-4.8 Cl-100 HCO3-23 AnGap-17*
___ 07:55AM BLOOD Calcium-8.4 Phos-3.7 Mg-2.1
___ 12:50PM BLOOD ANCA-NEGATIVE B
___ 07:55AM BLOOD CRP-233.1*
___ 05:12AM BLOOD ANAPLASMA PHAGOCYTOPHILUM DNA, 
QUALITATIVE-PND

Imaging:
=========

ECHO: ___ The estimated right atrial pressure is ___ mmHg. 
Left ventricular systolic function is hyperdynamic (EF = 75%). 
There is a small pericardial effusion. The effusion appears 
circumferential. The effusion is echo dense, consistent with 
blood, inflammation or other cellular elements. No right atrial 
or right ventricular diastolic collapse is seen. There is 
significant, accentuated respiratory variation in 
mitral/tricuspid valve inflows, consistent with impaired 
ventricular filling. 

Compared with the prior study (images reviewed) of ___, 
size of pericardial effusion (small) appears similar but return 
of increased repirophasic variation of both mitral and tricuspid 
inflow suggests some degree of impaired filling, although 
cardiac tamponade is not present.  

ECHO: ___ 
Left ventricular wall thicknesses are normal. The left 
ventricular cavity size is normal. Left ventricular systolic 
function is hyperdynamic (EF = 75%). Right ventricular chamber 
size and free wall motion are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
The estimated pulmonary artery systolic pressure is normal. 
There is a small pericardial effusion. The effusion is echo 
dense, consistent with blood, inflammation or other cellular 
elements. There are no echocardiographic signs of tamponade. No 
right atrial or right ventricular diastolic collapse is seen. A 
left pleural effusion is present. 

 Compared with the prior study (images reviewed) of ___, 
image quality is better. Previously reported wall motion 
abnormalities are no longer seen. Left ventricle is 
hyperdynamic. Increased respirophasic variation of ventricular 
inflow is no longer seen.  

___ The estimated right atrial pressure is ___ mmHg. 
There is a small pericardial effusion. The effusion appears 
circumferential. The effusion is echo dense, consistent with 
blood, inflammation or other cellular elements. There are no 
echocardiographic signs of tamponade. No right atrial or right 
ventricular diastolic collapse is seen. There is significant, 
accentuated respiratory variation in mitral/tricuspid valve 
inflows, consistent with possible impaired ventricular filling. 

 Compared with the prior study (images reviewed) of ___ 
pericardial effusion is slightly larger, now with evidence of 
consolidation.

ECHO: ___ FOCUSED STUDY: Due to suboptimal technical quality, 
a focal wall motion abnormality cannot be fully excluded. 
Overall left ventricular systolic function is normal (LVEF>55%). 
with normal free wall contractility. There is a 
trivial/physiologic pericardial effusion.  

ECHO ___: FOCUSED STUDY: Due to suboptimal technical quality, 
a focal wall motion abnormality cannot be fully excluded. 
Overall left ventricular systolic function is normal (LVEF>55%). 
with normal free wall contractility. There is a 
trivial/physiologic pericardial effusion.  

Microbiology:
==============

___ 10:46 am URINE      Source: ___. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, in
      infected patients the excretion of antigen in urine may 
vary. 

___ 3:34 pm FLUID RECEIVED IN BLOOD CULTURE BOTTLES
      PERICARDIAL FLUID. 

   Fluid Culture in Bottles (Preliminary): 
      CORYNEBACTERIUM SPECIES (DIPHTHEROIDS). 

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE ROD(S). 
      Reported to and read back by ___ (___) @ 0320 
ON ___. 
___ Blood (LYME) Lyme IgG-FINAL Negative

 
Brief Hospital Course:
Outpatient Providers: Summary:
========
Mr. ___ is a ___ M w/ no past medical history who presents w/ 
recurring pericarditis, found to have pericardial effusion, now 
s/p pericardiocentesis ___ w/ drain placement. The patient was 
then followed in the CCU with serial ECHOs and his pericardial 
fluid was small and unchanged on subsequent ECHOs. He also had a 
left pleural effusion noted on CXR but his 02 sats were in the 
___ on room air and the patient was asymptomatic. 

#CORONARIES: Unknown
# PUMP: LVEF >55%
# RHYTHM: NSR

#Pericarditis
#Pericardial effusion
#Pleural effusion

TTE w/ large pericardial effusion and concerning for early 
tamponade physiology, now s/p pericardiocentesis w/ 350cc 
drained. Post procedure TTE demonstrated resolution of effusion. 
Underlying cause of pericarditis still unclear. Low suspicion 
for malignancy, TB. TSH wnl. Recurrent/episodic timecourse over 
past several months, CRP markedly elevated, CP assoc w/ fevers, 
suggesting inflammatory condition (however ___ negative). 
Otherwise viral vs tick borne (ie Lyme) etiology considered. 
Pericardial fluid growing GPR, most consistent w/ contamination. 
ID deferring abx tx for now, but have recommended large 
infectious work up, results pending. Repeat TTE also notable for 
pleural effusion, however the patient was largely asymptomatic 
and his 02 sats were in the ___ on ambulation. He was treated 
with colchicine 0.6mg BID and ibuprofen 600mg every 8 hours. He 
will need to be on a PPI given these high NSAID doses. His 
pericardial fluid did grow carinii bacterium but this was 
thought to be a contaminant by ID and the CCU team and he was 
not continued on Vancomycin. He did have many labs drawn and 
many are pending on d/c. The most concerning labs were negative 
and we anticipate that only viral ie. coxsaskie will return 
positive as the etiology for his pericarditis. On discharge, TTE 
was repeated and showed that the size of the pericardial 
effusion is small appears similar to prior, however it was noted 
that there was return of increased repirophasic variation of 
both mitral and tricuspid inflow suggesting some degree of 
impaired filling, although cardiac tamponade is not present.

Transitional Issues:
====================
[] Follow up with Dr. ___ on ___ 8:30am 
[] Concern for restrictive pericarditis following the acute 
phase patient notified of right heart symptoms to be looking out 
for.
[] Patient will need Rx for PPI given NSAID use for pericarditis
[] Patient will need to follow up with PCP ___ 1 week from d/c
[] Patient will need follow up TTE as an outpatient 

# CODE: FULL (confirmed) 
# CONTACT/HCP: ___ ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium Carbonate 500 mg PO QID:PRN indigestion  
2. Fluticasone Propionate NASAL 1 SPRY NU DAILY Allergies  

 
Discharge Medications:
1.  Colchicine 0.6 mg PO BID 
RX *colchicine 0.6 mg 1 capsule(s) by mouth twice a day Disp 
#*20 Capsule Refills:*0 
2.  Ibuprofen 600 mg PO Q8H 
RX *ibuprofen 600 mg 1 tablet(s) by mouth three times a day Disp 
#*30 Tablet Refills:*0 
3.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth Daily Disp #*20 
Capsule Refills:*0 
4.  Calcium Carbonate 500 mg PO QID:PRN indigestion   
5.  Fluticasone Propionate NASAL 1 SPRY NU DAILY Allergies   

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:

#Pericarditis
#Pericardial Effusion
#Pleural effusion 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you on this hospital admission 
to ___.

Why was I admitted?

- You were admitted to the hospital for an accumulation of fluid 
around your heart known as a pericardial effusion

What was done for me?

- You had a procedure done in order to place a drain near your 
heart to drain your fluid
- You were watched in the CCU for complications
- You had multiple images of your heart taken to re-evaluate the 
fluid
- You also had many tests done to determine the cause, all of 
these have been negative so far but many are still pending

What I need to do once I leave the hospital.

- It is very important that you see your cardiologist Dr. ___ 
on ___ at 8:30am  
- It is very important that you new medications 
 
Followup Instructions:
___